US06610707B1
A solution of tert-butyl (2S)-2-cyano-1-piperidinecarboxylate (13.10 g) [see Preparation 3] in methanol (500 ml) was added to a solution of hydroxylamine hydrochloride (21.6 g) and sodium carbonate (33.0 g) in water (600 ml). The reaction mixture was warmed to the reflux temperature and stirred for 8 hours after which time the methanol was removed under reduced pressure and the product extracted from the aqueous layer with ethyl acetate (3×500 ml). The combined organic layers were washed with water (500 ml), dried over magnesium sulphate and the solvent removed under reduced pressure to afford tert-butyl (Z)-(2S)-2-[amino(hydroxyimino)methyl]-1-piperidinecarboxylate (14.1 g) as a white solid.

reactant | tert-butyl (2S)-2-cyano-1-piperidinecarboxylate | 13.10 g | C(#N)[C@H]1N(CCCC1)C(=O)OC(C)(C)C | C11H18N2O2
reactant | hydroxylamine hydrochloride | 21.6 g | Cl.NO
reactant | sodium carbonate | 33.0 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | 500 ml | CO | CH4O
solvent | water | 600 ml | O | H2O
product | tert-butyl (Z)-(2S)-2-[amino(hydroxyimino)methyl]-1-piperidinecarboxylate | 14.1 g | N\C(\[C@H]1N(CCCC1)C(=O)OC(C)(C)C)=N/O | C11H21N3O3
